US04803279
4-Acetamidoacetophenone (44 g, 0.25 mole) was suspended in 500 ml methylene chloride and treated with bromine (44 g, 0.275 mole). The reaction mixture was stirred overnight, then evaporated in vacuo. The residue was suspended in 200 ml of absolute EtOH and treated with 2-amino-4,5-dihydrothiazole (60 g, 0.59 mole). The reaction was stirred for 2 days, then taken up in water and extracted with methylene chloride. The organic phase was washed with water and then brine, and then dried over sodium sulfate. Flash column chromatography (silica, eluting with methylene chloride/methanol, 98/2) gave 6-(4-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | 4-Acetamidoacetophenone | 0.25 mole, 44 g | CC(=O)C1=CC=C(C=C1)NC(=O)C | C10H11NO2
reactant | bromine | 0.275 mole, 44 g | BrBr | Br2
reactant | 2-amino-4,5-dihydrothiazole | 0.59 mole, 60 g | NC=1SCCN1 | C3H6N2S
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 6-(4-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C)(=O)NC1=CC=C(C=C1)C=1N=C2SCCN2C1 | C13H13N3OS
